US07544697B2
A solution of iodine monochloride in dichloromethane (10.8 mL of 2 M, 21.6 mmol) was added to a mixture of 1-ethyl-5-(2-hydroxy-2-methylpropyl)-1H-pyrazole-3-carbonitrile (2.0 g, 10.3 mmol), dichloromethane (17 mL) and freshly ground potassium carbonate (2.9 g, 22 mmol). The reaction was stirred for 18 hours. The work-up and purification procedures described in Part D of Example 588 were followed to provide 1.8 g of 1-ethyl-5-(2-hydroxy-2-methylpropyl)-4-iodo-1H-pyrazole-3-carbonitrile as a white solid.

reactant | iodine monochloride | ICl | ClI
reactant | 1-ethyl-5-(2-hydroxy-2-methylpropyl)-1H-pyrazole-3-carbonitrile | 10.3 mmol, 2.0 g | C(C)N1N=C(C=C1CC(C)(C)O)C#N | C10H15N3O
reactant | potassium carbonate | 22 mmol, 2.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 17 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 21.6 mmol, 2 M, 10.8 mL | ClCCl | CH2Cl2
product | 1-ethyl-5-(2-hydroxy-2-methylpropyl)-4-iodo-1H-pyrazole-3-carbonitrile | 1.8 g | C(C)N1N=C(C(=C1CC(C)(C)O)I)C#N | C10H14IN3O
